### PR TITLE
[Merged by Bors] - feat(Analysis/SchwartzSpace): scalar multiplication with linear factors

### PR DESCRIPTION
**Pull request by mcdoll**
This definition is the key to calculating the derivative of the Fourier transform on the level of Schwartz functions.
While it is possible to use the Fourier transform for defining the map on Schwartz functions, it seems better to prove
the more general version by hand.

---

- [x] depends on: #33400

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 1]
```diff
@@ -764,6 +766,68 @@ theorem pairing_apply_apply (B : E →L[𝕜] F →L[𝕜] G) (f : 𝓢(D, E)) (
...
+open ContinuousLinearMap
+
+variable (𝕜 F) in
+/-- Scalar multiplication with a continuous linear map as a continuous linear map on Schwartz
+functions. -/
+def smulRightCLM (L : E →L[ℝ] G →L[ℝ] ℝ) : 𝓢(E, F) →L[𝕜] 𝓢(E, G →L[ℝ] F) :=
+  mkCLM (fun f x ↦ (L x).smulRight (f x)) (by intros; ext; simp) (by
+    intro c g x
+    ext v
+    simpa using smul_comm ((L x) v) c (g x)) (by intro; fun_prop) (by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]: I would like to reformat this to make it easier to distinguish the different arguments. I originally thought this was one argument to `mkCLM`.
```suggestion
  mkCLM (fun f x ↦ (L x).smulRight (f x)) (by intros; ext; simp)
    (by intro c g x; ext v; simpa using smul_comm (L x v) c (g x))
    (by fun_prop) <| by
```
Then indent the remainder of the proof, and remove the final `)`.

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 2]
```diff
@@ -764,6 +766,68 @@ theorem pairing_apply_apply (B : E →L[𝕜] F →L[𝕜] G) (f : 𝓢(D, E)) (
...
+          Finset.sum_const_zero]
+          positivity
+        · obtain ⟨n', hn'⟩ : ∃ n', n' + 1 = n := by simpa using Nat.zero_lt_of_ne_zero h
+          have : ∑ k ∈ Finset.range n',
+              (((n' + 1).choose (k + 1 + 1)) : ℝ) * ‖iteratedFDeriv ℝ (k + 1 + 1) L x‖ *
+              ‖iteratedFDeriv ℝ (n' + 1 - (k + 1 + 1)) f x‖ = 0 := by
+            apply Finset.sum_eq_zero
+            simp [iteratedFDeriv_succ_eq_comp_right, iteratedFDeriv_succ_const]
+          rw [← hn', Finset.sum_range_succ', this]
+          simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]: It's nicer to use `cases` here since `n : ℕ`. Then you don't have to futz with `n' + 1 = n` and all so forth.
```suggestion
        cases n with
        | zero => 
          simp only [Finset.range_zero, Nat.choose_zero_succ, CharP.cast_eq_zero, zero_mul,
            Finset.sum_const_zero]
          positivity
        | succ n =>
          have : ∑ k ∈ Finset.range n,
              (((n + 1).choose (k + 1 + 1)) : ℝ) * ‖iteratedFDeriv ℝ (k + 1 + 1) L x‖ *
              ‖iteratedFDeriv ℝ (n + 1 - (k + 1 + 1)) f x‖ = 0 := by
            apply Finset.sum_eq_zero
            simp [iteratedFDeriv_succ_eq_comp_right, iteratedFDeriv_succ_const]
          rw [Finset.sum_range_succ', this]
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 3]
```diff
@@ -764,6 +766,68 @@ theorem pairing_apply_apply (B : E →L[𝕜] F →L[𝕜] G) (f : 𝓢(D, E)) (
...
+      _ = ‖x‖ ^ k * ‖L x‖ * ‖iteratedFDeriv ℝ n f x‖ +
+            ‖x‖ ^ k * n * ‖L‖ * ‖iteratedFDeriv ℝ (n - 1) f x‖ := by ring
+      _ ≤ ‖L‖ * 1 * (SchwartzMap.seminorm 𝕜 (k + 1) n) f +
+            ‖L‖ * n * (SchwartzMap.seminorm 𝕜 k (n - 1) f) := by
+        apply add_le_add
+        · grw [le_opNorm, ← le_seminorm 𝕜 (k + 1) n f x]
+          ring_nf; exact le_refl _
+        · grw [← le_seminorm 𝕜 k (n - 1) f x]
+          ring_nf; exact le_refl _
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]: no need for the `add_le_add` as that's sort of the point of `grw`. And I think `apply le_of_eq` is better so that we get a terminal `ring` call.
```suggestion
        grw [le_opNorm, ← le_seminorm 𝕜 (k + 1) n f x, ← le_seminorm 𝕜 k (n - 1) f x]
        apply le_of_eq
        ring
```

File: Mathlib/Analysis/Distribution/SchwartzSpace.lean [hunk 4]
```diff
@@ -764,6 +766,68 @@ theorem pairing_apply_apply (B : E →L[𝕜] F →L[𝕜] G) (f : 𝓢(D, E)) (
...
+      _ ≤ ‖L‖ * max 1 n *
+          max ((SchwartzMap.seminorm 𝕜 (k + 1) n) f) ((SchwartzMap.seminorm 𝕜 k (n - 1)) f) +
+          ‖L‖ * max 1 n *
+          max ((SchwartzMap.seminorm 𝕜 (k + 1) n) f) ((SchwartzMap.seminorm 𝕜 k (n - 1)) f) := by
+        apply add_le_add <;> gcongr <;> simp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/SchwartzSpace.lean]:
```suggestion
        gcongr <;> simp
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Comment by mcdoll** [comment]
bors merge
